US07902252B2
4.26. Synthesis of ethyl 6-(3-phenylpropyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate
The title compound was synthesized from ethyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.3 g, 1.55 mmol, 1 equiv) and 3-phenyl-propyl magnesium bromide (12.4 mL, 0.5M in THF, 6.2 mmol, 4 equiv) according to General Procedure 3 to give the exo olefin-containing compound (E)-ethyl 6-(3-phenylpropylidene)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate, followed by hydrogenation according to General Procedure 6 with 5% Pd on carbon, and was purified by preparative HPLC using the Chromeleon purification system. A 0.1% formic acid/1% acetonitrile mixture in water (aqueous phase) and methanol (no modifier added—organic phase) using a 50 mm Dynamax HPLC C-18 column at 28 mL/min (initial gradient of 60% methanol and increasing to 100% over 7 minutes) afforded the title compound (42.1 mg). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.67 (br. s., 1H), 7.28-7.33 (m, 2H), 7.16-7.23 (m, 3H), 6.64 (d, J=1.64 Hz, 1H), 4.25-4.34 (m, 2H), 3.00-3.09 (m, 1H), 2.51-2.68 (m, 5H), 1.97-2.07 (m, 1H), 1.65-1.77 (m, 3H), 1.47-1.55 (m, 1H), 1.34 (t, J=7.13 Hz, 3H).

reactant | ethyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 1.55 mmol, 0.3 g, 1 equiv | O=C1CCC=2NC(=CC21)C(=O)OCC | C10H11NO3
reactant | 3-phenyl-propyl magnesium bromide | 6.2 mmol, 0.5M, 12.4 mL, 4 equiv | C1(=CC=CC=C1)CCC[Mg]Br
product | ethyl 6-(3-phenylpropyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | C1(=CC=CC=C1)CCCC1CCC2=C1NC(=C2)C(=O)OCC | C19H23NO2
